US07074800B1
Using an analogous procedure to that described for the preparation of the starting material in Example 201, 7-benzyloxy-4-(indol-6-ylamino)-6-methoxyquinazoline hydrochloride was treated with ammonium formate (655 mg, 10.4 mmol) to give 7-hydroxy-4-(indol-6-ylamino)-6-methoxyquinazoline (162 mg, 76%).

reactant | 7-benzyloxy-4-(indol-6-ylamino)-6-methoxyquinazoline hydrochloride | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=CC=C2C=CNC2=C1)OC
reactant | ammonium formate | 10.4 mmol, 655 mg | C(=O)[O-].[NH4+]
product | 7-hydroxy-4-(indol-6-ylamino)-6-methoxyquinazoline | 162 mg, 76% | OC1=C(C=C2C(=NC=NC2=C1)NC1=CC=C2C=CNC2=C1)OC | C17H14N4O2
